US06426345B1
A mixture of 2-benzyl-3-oxo-4-(3-carboxyphenyl)-3,4-dihydropyrido[2,3-b]pyrazine (357 mg), triethylamine (0.14 ml) and diphenylphosphoryl azide (0.216 ml) in benzene (5 ml) was refluxed for 15 minutes. 3-Aminopyridine (113 mg) was then added to the mixture and the reflux was continued for 5 hours. The reaction mixture was poured into a mixture of ethyl acetate and aqueous sodium bicarbonate solution. The organic phase was separated, washed with brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with methanol to give 2-benzyl-3-oxo-4-[3-[3-(3-pyridyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (168 mg).

reactant | 2-benzyl-3-oxo-4-(3-carboxyphenyl)-3,4-dihydropyrido[2,3-b]pyrazine | 357 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)O)N=CC=C2 | C21H15N3O3
reactant | diphenylphosphoryl azide | 0.216 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-Aminopyridine | 113 mg | NC=1C=NC=CC1 | C5H6N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | 2-benzyl-3-oxo-4-[3-[3-(3-pyridyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 168 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC=1C=NC=CC1)N=CC=C2 | C26H20N6O2
